US05935973
A mixture of 5-bromo-2-hydroxybenzaldehyde (170 g) and 4-(aminomethyl)piperidine (96.9 g) in ethanol (2.5 L) was stirred at ambient temperature for 3 hours. The solvent was removed in vacuo to give 4-bromo-2-[N-(4-piperidylmethyl)iminomethyl]phenol (267 g) as a yellow solid m.p 35-38° C.

reactant | 5-bromo-2-hydroxybenzaldehyde | 170 g | BrC=1C=CC(=C(C=O)C1)O | C7H5BrO2
reactant | 4-(aminomethyl)piperidine | 96.9 g | NCC1CCNCC1 | C6H14N2
solvent | ethanol | 2.5 L | C(C)O | C2H6O
product | 4-bromo-2-[N-(4-piperidylmethyl)iminomethyl]phenol | 267 g | BrC1=CC(=C(C=C1)O)C=NCC1CCNCC1 | C13H17BrN2O
